US06800651B2
A solution of N-(4-(2,4-difluorophenoxy)phenyl)amine (1.0 equiv.) in dichloromethane (0.2 M) was cooled to 0° C. and treated with 3-acetylpyridine (Aldrich; 1.4 equiv.), acetic acid (5.0 equiv.), and sodium triacetoxyborohydride (2.5 equiv.). The reaction was allowed to warm to ambient temperature and stirred an additional 22 hours. The reaction was cautiously quenched with saturated aqueous NaHCO3 then adjusted to pH=10 with 1 N NaOH. The mixture was stirred for 4 hours then the layers were separated. The aqueous layer was extracted twice with DCM. The combined organics were washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude material was purified via radial chromatography eluting with 50:50 to 60:40 ethyl acetate/hexanes to give N-(4-(2,4-difluorophenoxy)phenyl)-1-pyrid-3-ylethylamine. 1H NMR (400 MHz) 1.54 (3H, d, J=6.7 Hz), 3.96 (1H, bs), 4.48 (1H, q, J=6.7 Hz), 6.44 (2H, m), 6.76 (2H, m), 6.83-6.93 (2H, m), 7.24 (1H, m), 7.44 (1H, m), 7.68 (1H, td, J=1.8, 7.9 Hz), 8.50 (1H, d, J=3.8 Hz), 8.64 (1H, bs). HRMS calcd 327.1309. Found 327.1308.

reactant | N-(4-(2,4-difluorophenoxy)phenyl)amine | 1.0 equiv. | FC1=C(OC2=CC=C(C=C2)N)C=CC(=C1)F | C12H9F2NO
reactant | 3-acetylpyridine | 1.4 equiv. | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | acetic acid | 5.0 equiv. | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.5 equiv. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 0.2 M | ClCCl | CH2Cl2
product | N-(4-(2,4-difluorophenoxy)phenyl)-1-pyrid-3-ylethylamine | FC1=C(OC2=CC=C(C=C2)NC(C)C=2C=NC=CC2)C=CC(=C1)F | C19H16F2N2O
